US07294629B2
To a solution of 2,5-dibromonitrobenzene (80 g, 285 mmol) in DMF (500 mL) was added copper cyanide (I) (38 g, 427 mmol) and the mixture was stirred at 100° C. for 1.5 hrs. The reaction mixture was allowed to reach room temperature and toluene (750 mL)-water (1250 mL) was added. Then, Celite (50 g) was added, and after thorough stirring, insoluble material was filtered off. The filtrate was partitioned and the organic layer was washed successively with water (500 mL), 1% aqueous ammonia (250 mL×2), water (250 mL) and saturated brine (500 mL), and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure to give a yellow solid (61.4 g) containing 2-cyano-5-bromonitrobenzene as a main component. This was dissolved in ethyl acetate (270 mL) and platinum oxide monohydrate (330 mg, 1.35 mmol) was added. The inside of the reaction container was displaced with hydrogen and the mixture was stirred under a hydrogen atmosphere for 41.5 hrs. Insoluble material was filtered off and the residue was washed with ethyl acetate (200 mL) and then with ethanol (100 mL). The filtrate was evaporated under reduced pressure, and after drying, suspended in ether (250 mL). The suspension was stirred with heating under reflux. The mixture was allowed to cool to room temperature and the insoluble material was collected by filtration to give 4-bromoanthranilic amide (40 g, 186 mmol, 65%).

reactant | 2-cyano-5-bromonitrobenzene | C(#N)C1=C(C=C(C=C1)Br)[N+](=O)[O-] | C7H3BrN2O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 270 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide monohydrate | 1.35 mmol, 330 mg | O.[Pt]=O
product | 4-bromoanthranilic amide | 186 mmol, 40 g, 65% | BrC=1C=C(C(C(=O)N)=CC1)N | C7H7BrN2O
